US09079902B2
A 10-mL round-bottom flask was charged with N-(2,4-dimethoxybenzyl)-1-methyl-3-(2-(1-methyl-1H-pyrazol-5-yl)-4-(trifluoromethyl)phenyl)-N-(1,2,4-thiadiazol-5-yl)-1H-indole-6-sulfonamide (35.79 mg, 0.056 mmol) and methanol (1 mL). Hydrogen chloride (4M in 1,4-dioxane) (141 μl, 0.563 mmol) was added, and the resulting solution was stirred for 45 min. The reaction mixture was loaded onto a 500 mg SCX-2 ion exchange column (Silicycle, Quebec City, Canada). The column was eluted with methanol, then with a solution of 2N ammonia in methanol. The basic fractions were combined and concentrated. The residue was purified further by chromatography on silica gel (0 to 10% MeOH/DCM) to give 3-(4-chloro-2-(1-methyl-1H-pyrazol-5-yl)phenyl)-1-methyl-N-(1,2,4-thiadiazol-5-yl)-1H-indole-6-sulfonamide (12.05 mg, 0.025 mmol, 44.1% yield) as a cream colored solid. 1H NMR (400 MHz, DMSO-d6) δ=8.35 (br. s., 1 H), 7.90 (d, J=1.1 Hz, 1 H), 7.62 (d, J=1.3 Hz, 2 H), 7.56-7.31 (m, 4 H), 7.12 (s, 1 H), 6.27 (d, J=1.9 Hz, 1 H), 3.79 (s, 3 H), 3.23 (s, 3 H). m/z (ESI) 485.1 (M+H)+.

reactant | N-(2,4-dimethoxybenzyl)-1-methyl-3-(2-(1-methyl-1H-pyrazol-5-yl)-4-(trifluoromethyl)phenyl)-N-(1,2,4-thiadiazol-5-yl)-1H-indole-6-sulfonamide | 0.056 mmol, 35.79 mg | COC1=C(CN(S(=O)(=O)C2=CC=C3C(=CN(C3=C2)C)C2=C(C=C(C=C2)C(F)(F)F)C2=CC=NN2C)C2=NC=NS2)C=CC(=C1)OC | C31H27F3N6O4S2
reactant | Hydrogen chloride | 0.563 mmol, 4M, 141 μl | Cl | ClH
solvent | methanol | 1 mL | CO | CH4O
product | 3-(4-chloro-2-(1-methyl-1H-pyrazol-5-yl)phenyl)-1-methyl-N-(1,2,4-thiadiazol-5-yl)-1H-indole-6-sulfonamide | 0.025 mmol, 12.05 mg, 44.1% yield | ClC1=CC(=C(C=C1)C1=CN(C2=CC(=CC=C12)S(=O)(=O)NC1=NC=NS1)C)C1=CC=NN1C | C21H17ClN6O2S2
